US03944560
To a suspension of sodium hydride (2.4 g., 0.1 mole) in freshly distilled hexamethyl-phosphoramide (24 ml.) is added dropwise with stirring under dry nitrogen a solution of 2-methoxy-2-methyl-4-hydroxy-1,3-benzodioxole (18.2 g., 0.1 mole) in hexamethylphosphoramide (36 ml.) and stirring is continued at ambient temperature until hydrogen evolution essentially ceases. Benzyl chloride (12.65 g., 0.1 mole) is added and the mixture stirred at 75°-80° C. for 5 hours. The mixture then is poured onto ice and adjusted to ca. pH 6 with acetic acid. The product is extracted with ether, and the ethereal solution washed with 2% sodium carbonate solution (50 ml.) and then with saturated sodium chloride solution. After drying over magnesium sulphate and then calcium sulfate, the ethereal solution is evaporated to give 2-methoxy-2-methyl-4-benzyloxy-1,3-benzodioxole which can be crystallized from di-isopropyl ether.

reactant | sodium hydride | 0.1 mole, 2.4 g | [H-].[Na+]
reactant | 2-methoxy-2-methyl-4-hydroxy-1,3-benzodioxole | 0.1 mole, 18.2 g | COC1(OC2=C(O1)C=CC=C2O)C | C9H10O4
reactant | hydrogen | [H][H] | H2
reactant | Benzyl chloride | 0.1 mole, 12.65 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | hexamethylphosphoramide | 36 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | hexamethyl-phosphoramide | 24 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2-methoxy-2-methyl-4-benzyloxy-1,3-benzodioxole | COC1(OC2=C(O1)C=CC=C2OCC2=CC=CC=C2)C | C16H16O4
